US05057614
A solution of 4.9 g of indole in 50 ml of benzene was treated with 19 ml of a 3M solution of methylmagnesium iodide in diethyl ether and stirred under nitrogen for 15 minutes. 3.5 g of 3-bromo-4-phenyl-1H-pyrrole-2,5-dione were added and the mixture was stirred for 18 hours. The solvent was evaporated and the residue was dissolved in 250 ml of dichloromethane and 50 ml of 2M hydrochloric acid. The organic extracts were washed with water, dried and evaporated. The residue was purified on silica gel with ethyl acetate/petroleum ether. Trituration with dichloromethane and recrystallization from methanol yielded 1.40 g of 3-(3-indolyl)-4-phenyl-1H-pyrrole-2,5-dione, m.p. 256° C.

reactant | indole | 4.9 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methylmagnesium iodide | C[Mg]I
reactant | 3-bromo-4-phenyl-1H-pyrrole-2,5-dione | 3.5 g | BrC=1C(NC(C1C1=CC=CC=C1)=O)=O | C10H6BrNO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(3-indolyl)-4-phenyl-1H-pyrrole-2,5-dione | 1.40 g | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC=CC=C1)=O)=O | C18H12N2O2
